US05922711
To the solution of piperazine (3 g) in dichloromethane (30 ml) was addedmethyl isocyanate (2.16 ml) in an ice water bath with stirring. After 10 minutes the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was evaporated in vacuo. The residue was diluted with acetonitrile (15 ml) and crystals were filtered off. The filtrate was evaporated in vacuo. To the residue was added xylene and the solvent was azeotropically removed in vacuo to give N-methyl-1-piperazinecarboxamide (2.43 g) as an oil.

reactant | piperazine | 3 g | N1CCNCC1 | C4H10N2
reactant | isocyanate | 2.16 ml | [N-]=C=O
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-methyl-1-piperazinecarboxamide | 2.43 g | CNC(=O)N1CCNCC1 | C6H13N3O
